US04065573
Following the procedure of Example 1, Part C, but substituting 33.4 gm. (0.115 mole) of 2-carbomethoxy-4-chlorophenyl)-4-cyanocyclohexanone (prepared in Part B, above) for the 29.8 gm. of the 2-carbomethoxy-4-(p-chlorophenyl)-4-cyanocyclohexanone, using 730 ml. glacial acetic acid and 365 ml. 10 percent aqueous sulfuric acid instead of the 660 ml. and 330 ml., respectively, and heating for 48 hours instead of 24 hours there is obtained a residual solid that is recrystallized from a mixture of methylene chloride and technical hexane thus affording 20.54 gm. (80% yield) of 4-(o-chlorophenyl)-4-cyanocyclohexanone having a melting point at 106° to 108° C.

reactant | 4-cyanocyclohexanone | C(#N)C1CCC(CC1)=O | C7H9NO
reactant | 2-carbomethoxy-4-(p-chlorophenyl)-4-cyanocyclohexanone | C(=O)(OC)C1C(CCC(C1)(C#N)C1=CC=C(C=C1)Cl)=O | C15H14ClNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(o-chlorophenyl)-4-cyanocyclohexanone | 80% yield | ClC1=C(C=CC=C1)C1(CCC(CC1)=O)C#N | C13H12ClNO
